   BJTdriver -- 24inch lossy line LTRA model -- DiodeCircuit

* This unclassified circuit is from Raytheon, courtesy Gerry Marino.
* It consists of a BJT driver connected by a 24 inch lossy line to a
* passive load consisting mostly of diodes. Each inch 
* of the lossy line is modelled by 10 LRC lumps in the Raytheon
* model.

* The line parameters (derived from the Raytheon input file) are:
* L = 9.13nH per inch
* C = 3.65pF per inch
* R = 0.2 ohms per inch

* the circuit

v1 1 0 0v pulse(0 4 1ns 1ns 1ns 20ns 40ns)

vcc 10 0 5v
*rseries 1 2 5
x1 1 2 10 bjtdrvr
*t1 2 0 3 0 z0=50.0136 td=4.38119ns rel=10
o2 2 0 3 0 lline1
*x2 2 3 oneinch
*x2 100 101 twentyfourinch
*x2 100 101 xtwentyfourinch
vtest1 2 100 0
vtest2 101 3 0
x3 3 4 10 dioload
*rl 3 0 5
*dl 0 3 diod2

.model lline1 ltra rel=1 r=0.2 g=0 l=9.13e-9 c=3.65e-12 len=24 steplimit

.model qmodn npn(bf=100 rb=100 cje=0.09375pF cjc=0.28125pF is=1e-12
+pe=0.5 pc=0.5)

.model qmodpd npn(bf=100 rb=100 cje=0.08187pF cjc=0.2525pF is=1e-12
+pe=0.5 pc=0.5)
.model qmodpdmine npn(bf=100 rb=100  cje=0.08187pF cjc=0.05pF is=1e-12
+pe=0.5 pc=0.5)

.model dmod1 d(n=2.25 is=1.6399e-4 bv=10)

.model dmod2 d

.model dmod d(vj=0.3v)

.model diod1 d(tt=0.75ns vj=0.6 rs=909 bv=10)

.model diod2 d(tt=0.5ns vj=0.3 rs=100 bv=10)

.options acct
+reltol=1e-3 abstol=1e-14
.control
tran 0.1ns 60ns
rusage
set color0=white
set xbrushwidth=3
plot v(1) v(2) v(3)
.endc

* bjt driver - 19=input, 268=output, 20=vcc; wierd node numbers from 
* the Raytheon file

.subckt bjtdrvr 19 268 20
q1 22 18 13 qmodn
q2 18 16 13 qmodn
qd2 21 9 0 qmodn
q4 14 14 0 qmodn
q3 16 15 14 qmodpd
q5 8 13 17 qmodn
q6 25 12 0 qmodn
q7 6 17 0 qmodpd
qd1 26 10 0 qmodn
q8 7 11 10 qmodn
q10 268 17 0 qmodpdmine
*q10 268 17 0 qmodpd
q9 7 10 268 qmodn

d1 0 19 dmod1
d2 18 19 dmod2
d3 13 19 dmod
dq1 18 22 dmod
dq2 16 18 dmod
d502 9 21 dmod
dq3 15 16 dmod
d10 24 8 dmod
d4 15 6 dmod
dq6 12 25 dmod
dq7 17 6 dmod
dd1 17 10 dmod
d7 11 6 dmod
dd2 17 26 dmod
d9 23 6 dmod
dq8 11 7 dmod
d501 17 268 dmod
dq9 10 7 dmod
d14 20 27 dmod
d8 0 268 dmod

r1 18 20 6k
r2 22 20 2.2k
r4 0 13 7k
rd1 9 13 2k
rd2 21 13 3k
r3 16 20 10k
r5 15 20 15k
r9 0 17 4k
r6 24 20 750
r10 12 17 2k
r12 24 11 1.5k
r11 25 17 3k
r15 23 20 10k
r13 0 10 15k
r14 7 27 12

.ends bjtdrvr

* subckt dioload - diode load: input=28, output=4, vcc=5

.subckt dioload 28 4 5
*comment out everything in dioload except d5 and r503, and watch
* the difference in results obtained between a tran 0.1ns 20ns and
* a tran 0.01ns 20ns
c1 28 0 5pF
r503 0 4 5.55
r4 0 28 120k
r5 1 5 7.5k

d5 4 28 diod2
d1 1 28 diod1
d4 2 0 diod1
d3 3 2 diod1
d2 1 3 diod1
.ends dioload

* subckt lump - one RLC lump of the lossy line

*10 segments per inch
.subckt lump 1 2
*r1 1 3 0.02
*c1 3 0 0.365pF
*l1 3 2 0.913nH

l1 1 3 0.913nH
c1 2 0 0.365pF
r1 3 2 0.02

*r1 1 3 0.01
*c1 3 0 0.1825pF
*l1 3 4 0.4565nH
*r2 4 5 0.01
*c2 5 0 0.1825pF
*l2 5 2 0.4565nH

*c1 1 0 0.365pF
*l1 1 2 0.913nH
.ends lump

.subckt oneinch 1 2
x1 1 3 lump
x2 3 4 lump
x3 4 5 lump
x4 5 6 lump
x5 6 7 lump
x6 7 8 lump
x7 8 9 lump
x8 9 10 lump
x9 10 11 lump
x10 11 2 lump
.ends oneinch

.subckt fourinch 1 2
x1 1 3 oneinch
x2 3 4 oneinch
x3 4 5 oneinch
x4 5 2 oneinch
.ends fourinch

.subckt fiveinch 1 2
x1 1 3 oneinch
x2 3 4 oneinch
x3 4 5 oneinch
x4 5 6 oneinch
x5 6 2 oneinch
.ends fiveinch

.subckt twentyfourinch 1 2
x1 1 3 fiveinch
x2 3 4 fiveinch
x3 4 5 fiveinch
x4 5 6 fiveinch
x5 6 2 fourinch
.ends twentyfourinch

*modelling using R and lossless lines
*5 segments per inch
.model llfifth ltra nocontrol noprint rel=10 r=0 g=0 l=9.13e-9
+c=3.65e-12 len=0.2 steplimit quadinterp
.subckt xlump 1 2 
o1 1 0 3 0 llfifth
r1 2 3 0.04
.ends xlump

.subckt xoneinch 1 2
x1 1 3 xlump
x2 3 4 xlump
x3 4 5 xlump
x4 5 6 xlump
x5 6 2 xlump
*x5 6 7 xlump
*x6 7 8 xlump
*x7 8 9 xlump
*x8 9 10 xlump
*x9 10 11 xlump
*x10 11 2 xlump
.ends xoneinch

.subckt xfourinch 1 2
x1 1 3 xoneinch
x2 3 4 xoneinch
x3 4 5 xoneinch
x4 5 2 xoneinch
.ends xfourinch

.subckt xfiveinch 1 2
x1 1 3 xoneinch
x2 3 4 xoneinch
x3 4 5 xoneinch
x4 5 6 xoneinch
x5 6 2 xoneinch
.ends xfiveinch

.subckt xtwentyfourinch 1 2
x1 1 3 xfiveinch
x2 3 4 xfiveinch
x3 4 5 xfiveinch
x4 5 6 xfiveinch
x5 6 2 xfourinch
.ends xtwentyfourinch

.end
